US08486963B2
7-(2-Fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid ((R)-2,3-dihydroxy-propoxy)-amide
7-(2-Fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid (90 mg, 0.23 mmol), O—(((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-hydroxylamine (35 mg, 0.23 mmol), HOBt (35 mg, 0.26 mmol), EDCI hydrochloride (50 mg, 0.26 mmol) and DIPEA (40 μL, 0.23 mmol) were dissolved in DMF (3 mL). The reaction was stirred at room temperature for 16 hours then concentrated in vacuo. The resultant residue was dissolved in ethyl acetate (10 mL), washed with aqueous saturated sodium bicarbonate solution (10 mL) and the aqueous fraction extracted twice with ethyl acetate (2×10 mL). The combined organic fractions were washed with brine, dried (MgSO4) and concentrated in vacuo. The resultant residue was dissolved in hydrochloric acid in dioxane (2 mL, 4M) and stirred at RT for 10 minutes. The reaction mixture was concentrated in vacuo and the resultant residue subjected to reverse phase HPLC (gradient 20-80% acetonitrile/water 0.1% formic acid, Phenominex gemini PhC6, 5 micron, 250×20 mm). The product was dissolved in ethyl acetate (5 mL), washed with aqueous saturated sodium bicarbonate solution (10 mL) and the aqueous fraction extracted twice with ethyl acetate (2×10 mL). The combined organic fractions were washed with brine, dried (MgSO4) and concentrated in vacuo to yield the title compound as a yellow solid (22 mg, 20%). NMR (d6-DMSO, 400 MHz) 11.39 (1H, s), 8.68 (1H, s), 7.99 (1H, s), 7.49 (1H, dd, J=10.9, 1.8 Hz), 7.41 (2H, s), 7.14-7.17 (1H, m), 6.74 (1H, s), 5.92 (1H, t, J=8.9 Hz), 4.80-4.81 (1H, m), 4.53 (1H, s), 3.80 (1H, dd, J=9.6, 3.6 Hz), 3.56-3.66 (2H, m). LCMS (Method A): RT=7.57 min, M+H+=487.

reactant | 7-(2-Fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid | 0.23 mmol, 90 mg | FC1=C(C=CC(=C1)I)NC1=C(C=C2N1C=NC=C2)C(=O)O | C14H9FIN3O2
reactant | ((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-hydroxylamine | 0.23 mmol, 35 mg | CC1(OC[C@H](O1)CNO)C | C6H13NO3
reactant | HOBt | 0.26 mmol, 35 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI hydrochloride | 0.26 mmol, 50 mg | CCN=C=NCCCN(C)C.Cl
reactant | DIPEA | 0.23 mmol, 40 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 7-(2-Fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid ((R)-2,3-dihydroxy-propoxy)-amide | 22 mg, 20% | O[C@@H](CONC(=O)C=1C=C2N(C=NC=C2)C1NC1=C(C=C(C=C1)I)F)CO | C17H16FIN4O4
